* BFQ226 SPICE MODEL
* PHILIPS SEMICONDUCTORS
* Date : April 1997
*
* PACKAGE: SOT223A DIE MODEL: XV221
* 1: COLLECTOR; 2: BASE; 3: EMITTER
.SUBCKT BFQ226 1 2 3
        Lb   4 5 1.5n 
        Le   7 8 .5n
        L1   2 4 .025n
        L2   1 6 1.19n
        L3   3 8 .6n
        Ccb  4 6 16f
        Cbe  4 8 182f
        Cce  6 8 249f
        Cbpb 5 6 7E-14 
        Cbpe 6 7 7E-14 
Q1 6 5 7 7 XV221  
*
* PHILIPS SEMICONDUCTORS
* Version:   1.0
* Date: Apr 1997
*
.MODEL XV221 NPN 
+ IS = 1.214E-15 
+ BF = 43.3 
+ NF = 0.9889 
+ VAF = 55.95 
+ IKF = 1 
+ ISE = 7.129E-15 
+ NE = 1.351 
+ BR = 10.7 
+ NR = 0.9935 
+ VAR = 10 
+ IKR = 0.2596 
+ ISC = 6.736E-12 
+ NC = 1.575 
+ RB = 0.251 
+ IRB = 0 
+ RBM = 0.1378 
+ RE = 1.633 
+ RC = 0.5348 
+ CJE = 1.821E-11 
+ VJE = 0.6 
+ MJE = 0.2705 
+ CJC = 2.429E-12 
+ VJC = 0.5045 
+ MJC = 0.4094 
+ CJS = 0 
+ VJS = 0.7 
+ MJS = 0 
+ XCJC = 0.1646 
+ TR = 0 
+ TF = 7.2E-11 
+ XTF = 65 
+ VTF = 5.2 
+ ITF = 0.56 
+ PTF = 0 
+ FC = 0.863 
.ENDS
